US04877792
5-(5-Chloro-2-pyridyloxy)-4-methyl-β-carboline-3-carboxylic Acid Ethyl Ester
Analogously to Example 8 from 5-hydroxy-4-methyl-β-carboline-2-carboxylic acid ethyl ester and 2-bromo-5-chloropyridine in dimethylformamide, mp 194°-196° C. (EtOH).

reactant | 5-hydroxy-4-methyl-β-carboline-2-carboxylic acid ethyl ester | C(C)OC(=O)N1C=C2N=C3C=CC=C(C3=C2C(=C1)C)O | C15H14N2O3
reactant | 2-bromo-5-chloropyridine | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | EtOH | CCO | C2H6O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(5-Chloro-2-pyridyloxy)-4-methyl-β-carboline-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1C)OC1=NC=C(C=C1)Cl | C20H16ClN3O3
